US05654307
Treatment of 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine (see a previous experimental) at 100° C. in a pressure vessel with dimethylamine in ethanol gives 4-(3-bromoanilino)-6-dimethylaminopyrido[3,4-d]pyrimidine. 1H NMR (DMSO) δ 9.71 (1H, s), 8.83 (1H, s), 8.43 (1H, s), 8.21 (1H, brs), 7.94 (1H, brd, J=7.5 Hz), 7.42-7.29 (2H, m), 7.26 (1H, s), 3.17 (6H, s).

reactant | 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)C=NC(=C3)F)C=CC1 | C13H8BrFN4
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-bromoanilino)-6-dimethylaminopyrido[3,4-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)C=NC(=C3)N(C)C)C=CC1 | C15H14BrN5
